US05317016
To a solution of chlorosulfonyl isocyanate (3.95 ml: 45.4 mmole) in dichloromethane (70 ml), p-methoxybenzyl alcohol (5.66 ml: 45.4 mmole) is added at -50° C. The mixture is stirred at -50° C. for 15 minutes. The resulting solution of p-methoxybenzyloxycarbonylsulfamoyl chloride is added to a solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine (obtained in the above Steps 6 or 8) (12.21 g: 22.7 mmole) and triethylamine (6.38 ml: 45.6 mmole) in dichloromethane (300 ml) at -78° C., and the mixture is stirred for 10 minutes, successively washed with dilute hydrochloric acid and brine, and concentrated in vacuo. The residue is purified by silica gel column chromatography to give (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-tritylthiopyrrolidine (16.31 g). Yield: 91.6%. NMR δ(CDCl3) ppm: 3.78(s, 3H), 3.81, 3.83(2×s, 3H), 4.98, 4.89(ABq, J=12 Hz, 2H), 5.09, 5.03(ABq, J=12 Hz, 2H). IR ν (CHCl3) cm-1 : 3390, 1740, 1685.

reactant | chlorosulfonyl isocyanate | 45.4 mmole, 3.95 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | p-methoxybenzyl alcohol | 45.4 mmole, 5.66 ml | COC=1C=CC(=CC1)CO | C8H10O2
reactant | p-methoxybenzyloxycarbonylsulfamoyl chloride | COC1=CC=C(COC(=O)NS(=O)(=O)Cl)C=C1 | C9H10ClNO5S
reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN)C=C1 | C33H34N2O3S
reactant | triethylamine | 45.6 mmole, 6.38 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-2-p-methoxybenzyloxycarbonylsulfamoylaminomethyl-4-tritylthiopyrrolidine | 16.31 g, Yield: 91.6% | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CNS(NC(=O)OCC2=CC=C(C=C2)OC)(=O)=O)C=C1 | C42H43N3O8S2
